US04800201
5-methyl-6-[1-(2,2,2-trichloroethoxy-carbonyl)-3-methyl-1,4-dihydro-4-pyridazinyl]2H-1,4-thiazin-3(4H)-one
A mixture of 3-methylpyridazine (1.82 ml), 2,2,2-trichloroethylchloroformate (3.44 ml) and 5-methyl-2H-1,4-thiazin-3(4H)-one (1.29 g) was treated in the same manner as described in Example 2 (i) to give the titled compound (0.4 g, yield 10%) as white crystals. n-Hexane-ethyl acetate (=3:2) was used as a developing eluant.

reactant | 3-methylpyridazine | 1.82 ml | CC=1N=NC=CC1 | C5H6N2
reactant | 2,2,2-trichloroethylchloroformate | 3.44 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | 5-methyl-2H-1,4-thiazin-3(4H)-one | 1.29 g | CC=1NC(CSC1)=O | C5H7NOS
product | 5-methyl-6-[1-(2,2,2-trichloroethoxy-carbonyl)-3-methyl-1,4-dihydro-4-pyridazinyl]2H-1,4-thiazin-3(4H)-one | 0.4 g, yield 10% | CC=1NC(CSC1C1C(=NN(C=C1)C(=O)OCC(Cl)(Cl)Cl)C)=O | C13H14Cl3N3O3S
